US06600072B2
6-(2-Diethylaminoethoxy)-1-naphthoylguanidine
1.5 g of CDI are added to a suspension of 2.0 g of 6-(2-diethylaminoethoxy)-1-naphthoic acid in 50 ml of THF, and the reaction mixture is stirred at RT overnight. It is then treated with 2.0 g of guanidine, again stirred overnight and concentrated, and the residue is stirred with 100 ml of water. The precipitate formed is filtered off with suction and purified by FC using methylene chloride/methanol 1:1.0.66 g of 6-(2-diethylaminoethoxy)-1-naphthoylguanidine is obtained; m.p.: 168-169° C. 1H-NMR (DMSO-d6): δ [ppm]=1.0 (6H), 2.6 (4H), 2.85 (2H), 4.15 (2H), 7.15 (1H), 7.3 (1H), 7.4 (1H), 7.75 (2H), 8.7 (1H).

reactant | CDI | 1.5 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 6-(2-diethylaminoethoxy)-1-naphthoic acid | 2.0 g | C(C)N(CCOC=1C=C2C=CC=C(C2=CC1)C(=O)O)CC | C17H21NO3
reactant | guanidine | 2.0 g | NC(=N)N | CH5N3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 6-(2-Diethylaminoethoxy)-1-naphthoylguanidine | C(C)N(CCOC=1C=C2C=CC=C(C2=CC1)C(=O)NC(=N)N)CC | C18H24N4O2
